US07855216B2
Step 2: 7-Fluoro-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester
A degassed solution of 3-amino-7-fluoro-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (1.0 g, 4.48 mmol), trifluoro-methanesulfonic acid 2-fluoro-4-trimethylsilanyl-phenyl ester (1.6 g, 4.93 mmol), Pd2dba3 (205 mg, 0.22 mmol), Xantphos (258 mg, 0.45 mmol) and cesium carbonate (2.0 g, 6.28 mmol) in toluene (20 ml) was subjected to microwave irradiation at 150° C. for 20 minutes. The reaction mixture was cooled to ambient temperature then diluted with ethyl acetate and filtered through a pad of Celite®. The filtrate was concentrated under reduced pressure to give a residue that was purified by flash chromatography (Si-PPC, pentane:diethyl ether, gradient 100:0 to 0:100) to afford the title compound as a yellow solid (505 mg, 29%). LCMS (method B): RT=3.39 min, M+H+=390.

reactant | 3-amino-7-fluoro-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 4.48 mmol, 1.0 g | C(C)OC(=O)C1=C(C=2C=NC=C(C2N1)F)N | C10H10FN3O2
reactant | trifluoro-methanesulfonic acid 2-fluoro-4-trimethylsilanyl-phenyl ester | 4.93 mmol, 1.6 g | FC1=C(C=CC(=C1)[Si](C)(C)C)OS(=O)(=O)C(F)(F)F | C10H12F4O3SSi
reactant | Xantphos | 0.45 mmol, 258 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 6.28 mmol, 2.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd2dba3 | 0.22 mmol, 205 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-Fluoro-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 505 mg, 29% | C(C)OC(=O)C1=C(C=2C=NC=C(C2N1)F)NC1=C(C=C(C=C1)[Si](C)(C)C)F | C19H21F2N3O2Si
